US07645764B2
A mixture of 8-cyclopentyl-6-{5-(5-isobutyl-[1,3,4]oxadiazol-2-yl)-2-methyl-phenyl}-2-methane-sulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one (0.04 g, 0.08 mmol) and 4-aminotetrahydropyran (0.041 g, 0.40 mmol) in 2-propanol (2 mL) was heated in a microwave reactor at 120° C. for 1 hour. The reaction mixture was cooled and concentrated under reduced pressure. The residue was purified by flash chromatography eluting with 50-70% ethyl acetate in hexanes to give 8-cyclopentyl-6-{5-(5-isobutyl-[1,3,4]oxadiazol-2-yl)-2-methyl-phenyl}-2-(tetrahydro-pyran-4-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one (Yield: 16.0 mg, 38%). HRMS (ES+) m/z Calcd for C30H36N6O3. +H [(M+H)+]: 529.2922. Found: 529.2917.

reactant | 8-cyclopentyl-6-{5-(5-isobutyl-[1,3,4]oxadiazol-2-yl)-2-methyl-phenyl}-2-methane-sulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.08 mmol, 0.04 g | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)S(=O)C)C2=C(C=CC(=C2)C=2OC(=NN2)CC(C)C)C)=O | C26H29N5O3S
reactant | 4-aminotetrahydropyran | 0.40 mmol, 0.041 g | NC1CCOCC1 | C5H11NO
solvent | 2-propanol | 2 mL | CC(C)O | C3H8O
product | 8-cyclopentyl-6-{5-(5-isobutyl-[1,3,4]oxadiazol-2-yl)-2-methyl-phenyl}-2-(tetrahydro-pyran-4-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one | Yield: 16.0 mg, 38% | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)NC2CCOCC2)C2=C(C=CC(=C2)C=2OC(=NN2)CC(C)C)C)=O | C30H36N6O3
